US05403816
Preparation of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(N-methyl-N-benzylamino)picolinate (Compound No. 26)
20 g (77.1 mmol) of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate N-oxide, 15 g (116 mmol) of diisopropylethylamine and 46.2 g (308.2 mmol) of sodium iodide were suspended in 200 ml of acetonitrile and stirred at room temperature for 15 minutes. To this mixture, 21.2 g (115.4 mmol) of N-methyl-N-benzylcarbamoyl chloride dissolved in 20 ml of acetonitrile was added at room temperature. The mixture was refluxed. Foaming started at a temperature slightly lower than the boiling point, and such foaming terminated in about 30 minutes. The reaction was continued for further 10 minutes. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water, dried, concentrated and then purified by silica gel column chromatography to obtain the desired product.

reactant | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate N-oxide | 77.1 mmol, 20 g | COC1=NC(=NC(=C1)OC)OC1=C([N+](=CC=C1)[O-])C(=O)OC | C13H13N3O6
reactant | diisopropylethylamine | 116 mmol, 15 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 308.2 mmol, 46.2 g | [I-].[Na+]
reactant | N-methyl-N-benzylcarbamoyl chloride | 115.4 mmol, 21.2 g | CN(C(=O)Cl)CC1=CC=CC=C1 | C9H10ClNO
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(N-methyl-N-benzylamino)picolinate | yield: 32% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(CC1=CC=CC=C1)C)C(=O)OC | C21H22N4O5
